US04326071
When in the procedure of Example 6 (A) an appropriate amount of 6-hydroxymethyl-2-piperidone is substituted for 5-hydroxymethyl-2-pyrrolidone, 6-formyl-2-piperidone is obtained. When an appropriate amount of 6-formyl-2-piperidone is substituted for 5-formyl-2-pyrrolidone in the procedure of Example 6 (B), 6-difluoromethyl-2-piperidone is obtained which, when substituted for 5-difluoromethyl-2-pyrrolidone in an appropriate amount in the procedure of Example 5, yields 5-amino-5-difluoromethylpentanoic acid.

reactant | 6-hydroxymethyl-2-piperidone | OCC1CCCC(N1)=O | C6H11NO2
reactant | 5-hydroxymethyl-2-pyrrolidone | OCC1CCC(N1)=O | C5H9NO2
product | 6-formyl-2-piperidone | C(=O)C1CCCC(N1)=O | C6H9NO2
